US04942245
(b) Ethyl 2-[4-(4-acetyl-3-hydroxy-2-propylphenylthio)butylthio]-benzimidazole-5-carboxylate
A mixture of ethyl 2-mercaptobenzimidazole-5-carboxylate (1.29 g), anhydrous potassium carbonate (960 mg) in N,N-dimethylformamide (20 ml) was stirred at 60-70 ° C. for 30 minutes. To this mixture was added a solution of 4-(4-acetyl-3-hydroxy-2-propylphenylthio)butylbromide (2.00 g) in N,N-dimethylformamide (10 ml) dropwise during 10 minutes and stirred at the same temperature for 30 minutes. The reaction mixture was poured into ice-water, made acidic with concentrated hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous sodium sulfate and evaporated. The resulting residue was purified by silica gel column chromatography, eluting with dichloromethane-ethyl acetate 10:1), to give the title compound (2.53 g, 89.8%) as pale yellow oil.

reactant | ethyl 2-mercaptobenzimidazole-5-carboxylate | 1.29 g | SC=1NC2=C(N1)C=CC(=C2)C(=O)OCC | C10H10N2O2S
reactant | potassium carbonate | 960 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(4-acetyl-3-hydroxy-2-propylphenylthio)butylbromide | 2.00 g | C(C)(=O)C1=C(C(=C(C=C1)SCCCCBr)CCC)O | C15H21BrO2S
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | Ethyl 2-[4-(4-acetyl-3-hydroxy-2-propylphenylthio)butylthio]-benzimidazole-5-carboxylate | 2.53 g, 89.8% | C(C)(=O)C1=C(C(=C(C=C1)SCCCCSC=1NC2=C(N1)C=CC(=C2)C(=O)OCC)CCC)O | C25H30N2O4S2
